US04978753
In the manner given in Example 1, 2-amino-7-trifluromethyl-5-phenyl-3H-1,4-benzodiazepine, propyl propiolate and propanol were refluxed. The mixture was chromatographed to give 9-trifluoromethyl-7-phenylpyrimido[1,2-a][1,4]benzodiazepin-3(5H)-one.

reactant | 2-amino-7-trifluromethyl-5-phenyl-3H-1,4-benzodiazepine | NC1=NC2=C(C(=NC1)C1=CC=CC=C1)C=C(C=C2)C(F)(F)F | C16H12F3N3
reactant | propyl propiolate | C(C#C)(=O)OCCC | C6H8O2
solvent | propanol | C(CC)O | C3H8O
product | 9-trifluoromethyl-7-phenylpyrimido[1,2-a][1,4]benzodiazepin-3(5H)-one | FC(C=1C=CC2=C(C(=NCC=3N2C=CC(N3)=O)C3=CC=CC=C3)C1)(F)F | C19H12F3N3O
